Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
pneumococcal vaccine / Inderal LA
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ extensive PMHx including CAD w/ AICD, COPD (on no
medications, by her choice), HFrEF (on Lasix M/W/S), lung cancer
S/P resection, CAD, bicuspid aortic valve, presents with
productive cough, sent in from urgent care. 

Patient initially developed myalgias and weakness starting 6 
days
ago. At that time she developed myalgias and large joint
arthralgias of her shoulders, elbows, hips, knees, as well as
rigors. The next day she developed a non-productive cough, and
subsequently beige sputum. Noted some chest tightness not 
related
to exertion several days ago that resolved. She notes, however,
progressive worsening of sputum, becoming green 3 days ago. Her
temperature at home was 99.5. She has been drinking adequate
fluids, and taking Tylenol at home. Received flu vaccine on 
___.

At urgent care today, O2 sat on ambulation was 85%, confirmed
with repeat testing, which resolved upon rest.

In the ED, initial VS were: 97.3 85 118/75 20 100% RA, but was
noted to have desats to 85% with ambulation.

Exam notable for: 
AVSS while lying in bed
AAOx3, comfortable
MMM, well hydrated
Dec lung sounds B/L, no focal findings
RRR
No ___ edema
Neurologically intact
 
Labs showed:  
Normal chem7, CBC: WBC 10.8, H/H 12.8/39.6, Plts 260.
proBNP 720, Trop-T <0.01
INR 0.9
Lactate 2.2
BCx collected
FluA and B were negative

EKG shoed NSR at 87, normal intervals, normal axis. TWI in II,
aVF. No ischemic ST changes.

Imaging showed: 
CXR:
IMPRESSION:  
Emphysema without superimposed pneumonia. 
 
Patient received: 
IV Azithromycin 500mg 
Albuterol 0.083% Neb Soln 1 NEB  
Ipratropium Bromide Neb 1 NEB 
PredniSONE 40 mg   

Transfer VS were: 97.9 81 102/61 20 97% RA  

On arrival to the floor, patient reports she feels quite well.
She notes no current fevers, chills, SOB, CP, abd pain. She 
notes
that overall she has not felt any wheezing this past week or 
more
dyspneic than usual (she is very active but occasional gets sob
with exertion).
 
 
Past Medical History:
1. CAD s/p IMI with cardiac cath in ___ with 2 vessel CAD (40% 
LCx stenosis, ___ occluded RCA)
2. CHF with EF 35%, inferior akinesis and lateral and 
inferoseptal hypokinesis per TTE in ___. PVD with right popliteal occlusion per angiogram
4. h/o NSVT s/p ICD placement in ___
5. Dyslipidemia
6. h/o Adnexal mass s/p bilat SBO on ___
7. h/p R partial pneumonectomy for adenocarcinoma of the right 
lung in ___
8. s/p chole, appy 
 
Social History:
___
Family History:
There is no known cardiac history or history of sudden death or 
cancer history. 
 
Physical Exam:
Admission Exam:
VS: 97.7 94/64 86 18 95% RA  
GENERAL: patient appears well, in NAD
HEENT: AT/NC, EOMI, R pupil 3 -> 2mm, L pupil 2.5 -> 1.5mm,
anicteric sclera, pink conjunctiva, MMM  
NECK: supple, small submandibular, mobile, nontender lymph 
nodes,
no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: faint sounds bilaterally, no wheezes, rales, rhonchi,
breathing comfortably without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

Discharge Exam:
GENERAL: NAD, sitting comfortably
EYES: EOMI, PERRLA
ENT: oropharynx clear
CV: RRR, no m/r/g
RESP: no wheezes, diminished breath sounds
GI: S, NTND
MSK: no peripheral edema
SKIN: wwp
NEURO: deferred
 
Pertinent Results:
Admission labs:

___ 09:24PM BLOOD WBC-10.8* RBC-4.11 Hgb-12.8 Hct-39.6 
MCV-96 MCH-31.1 MCHC-32.3 RDW-12.2 RDWSD-43.1 Plt ___
___ 09:24PM BLOOD Neuts-69.9 Lymphs-18.6* Monos-8.3 Eos-1.9 
Baso-0.6 Im ___ AbsNeut-7.53* AbsLymp-2.01 AbsMono-0.90* 
AbsEos-0.21 AbsBaso-0.07
___ 09:24PM BLOOD ___ PTT-29.5 ___
___ 09:24PM BLOOD Glucose-136* UreaN-16 Creat-0.7 Na-144 
K-4.5 Cl-101 HCO3-30 AnGap-13
___ 09:24PM BLOOD proBNP-720*
___ 09:24PM BLOOD cTropnT-<0.01
___ 09:24PM BLOOD Lactate-2.2*

Discharge labs:

___ 09:30AM BLOOD Lactate-4.3*
___ 09:30AM BLOOD ___ pO2-62* pCO2-55* pH-7.33* 
calTCO2-30 Base XS-0
___ 06:49AM BLOOD Albumin-4.3 Calcium-10.1 Phos-3.8 Mg-2.1
___ 06:49AM BLOOD ALT-11 AST-21 LD(LDH)-246 AlkPhos-94 
TotBili-0.2
___ 06:49AM BLOOD Glucose-188* UreaN-17 Creat-0.7 Na-142 
K-4.4 Cl-101 HCO3-27 AnGap-14
___ 06:49AM BLOOD ___ PTT-29.1 ___
___ 06:49AM BLOOD WBC-9.8 RBC-3.61* Hgb-11.3 Hct-35.1 
MCV-97 MCH-31.3 MCHC-32.2 RDW-12.2 RDWSD-43.9 Plt ___

Micro:
___ 9:15 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

Studies:
CHEST (PA & LAT)Study Date of ___ 8:44 ___
FINDINGS: 
 
PA and lateral views of the chest provided.  Left chest wall 
AICD is again
seen with leads extending into the region the right atrium and 
right
ventricle.  The lungs are hyperinflated and remain clear.  There 
is no focal
consolidation, large effusion, pneumothorax.  No signs of 
congestion or edema.
Cardiomediastinal silhouette is stable and remains within normal 
limits. 
Stable blunting of the right CP angle is related to mild 
pleuroparenchymal
scarring.  Imaged bony structures are intact.  Clips are noted 
in the right
upper abdomen.
 
IMPRESSION: 
 
Emphysema without superimposed pneumonia.
 
Brief Hospital Course:
Information for Outpatient ___ w/ extensive PMHx 
including CAD w/ AICD, COPD (on no medications, by her choice), 
HFrEF (on Lasix M/W/S), lung cancer s/p resection, CAD, bicuspid 
aortic valve, presents with URI type symptoms, oxygen 
desaturation. Symptoms improved with prednisone and 
azithromycin, and O2 sats were > 95% with ambulation. Patient 
will be treated for COPD exacerbation iso URI. Of note, patient 
described vasoconstriction of the digits, and this may have 
contributed to her desaturations prior to admission.

ACUTE ISSUES: 
=============
#Exertional hypoxia
#COPD exacerbation
Patient noted to be hypoxic on ambulation in clinic, with recent 
URI type
symptoms without pneumonia on CXR. Pt noted increase in sputum 
production + hypoxia w/ ambulation. As above, pt has likely 
Raynaud's per history which can contribute to variation in 
ambulatory O2. No recent PFTs. Not currently being treated for 
COPD by patient's choice. Could represent URI w/ progression of 
underlying COPD or COPD exacerbation. Improved with steroids and 
azithromycin given in ED and continued to treat for COPD 
exacerbation.

#Lactic Acidosis: Uptrending lactate during admission, however 
no signs ___ or other hypoperfusion on exam. Possibly 
spurious, for example iso tourniquet. No other clinical 
indicators of hypoperfusion or renal impairment.

CHRONIC ISSUES:
================
#CAD s/p MI
Continued aspirin.

#CHF with decreased EF
Held Lasix, ___ iso elevated lactate, can resume after d/c given 
excellent clinical status.

#HLD
Continued statin

#Deconditioning
Pt may have some deconditioning contributing to SOB w/ exertion,
and patient's family concerned about strength. No acute need for 
___ at home or in rehab facility, but patient may benefit from ___ 
as outpatient.

TRANSITIONAL ISSUES:
======================
[ ] F/u with PCP ___
[ ] complete 5D course of prednisone (___)
[ ] complete 5D course of azithromycin (___)
[ ] when assessing oxygen saturation levels in the future, 
monitor for vasoconstriction of the digits, at times O2 monitors 
had difficulty reading accurate O2 saturations while 
hospitalized
[ ] Patient may benefit from PFTs as outpatient as has not had 
recent set
[ ] Follow up volume status and blood pressure at PCP follow up 
___ and consider restarting Lasix and ___. 
[ ] Check lactate ___ to ensure resolution

Attending Addendum: 
I have seen and examined the patient on ___ and agree with 
the resident's note/  She is stable for discharge with 
outpatient follow-up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Furosemide 20 mg PO 3X/WEEK (MO,WE,SA) 
2. Lovastatin 20 mg oral QPM 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral 2 pills in the morning 
6. telmisartan 40 mg oral DAILY 
7. Vitamin D 3000 UNIT PO QPM 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 3 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*3 
Tablet Refills:*0 
2.  PredniSONE 40 mg PO DAILY Duration: 3 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth daily Disp #*6 Tablet 
Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 mg 
calcium- 200 unit oral 2 pills in the morning  
5.  Lovastatin 20 mg oral QPM  
6.  Metoprolol Succinate XL 100 mg PO DAILY  
7.  Vitamin D 3000 UNIT PO QPM  
8. HELD- Furosemide 20 mg PO 3X/WEEK (MO,WE,SA)  This medication 
was held. Do not restart Furosemide until told by your PCP
9. HELD- telmisartan 40 mg oral DAILY  This medication was held. 
Do not restart telmisartan until told to start by your PCP
10.Outpatient Physical Therapy
728.87
Outpatient ___ for generalized weakness as needed
Outpatient PCP: ___, MD

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis
=================
Chronic Obstructive Pulmonary Disease Exacerbation

Secondary Diagnoses
======================
Heart Failure with Reduced Ejection Fraction                     
              
Coronary Artery Disease
Heart Failure with Reduced Ejection Fraction
History of Lung Cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___.

Why was I here?
-You were having difficulty breathing

What happened while I was in the hospital?
-You were given azithromycin and prednisone to treat a possible 
COPD exacerbation

What should I do when I go home?
-You should take the rest of your Z-pack (azithromycin)
-You should take the rest of your prednisone

Be well!

Your ___ Care Team
 
Followup Instructions:
___